US09376422B2
Step 1: Synthesis of N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-fluoro-2-(trifluoromethyl)benzamide
To a stirred solution of 3-fluoro-2-(trifluoromethyl)benzoic acid (1.00 g, 4.81 mmol) in DMF (25 ml) cooled in an ice bath was added HATU (2.19 g, 5.77 mmol) and DIPEA (1.67 ml, 9.61 mmol). The reaction was stirred at 0° C. for 5 min after which time 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 904 mg, 5.29 mmol) was added and the reaction was warmed room temperature for 4 h. The reaction mixture was then poured onto distilled water (300 ml) and stirred for 1 h after which time the precipitate was collected via vacuum filtration using microfibre paper. The resulting solid was triturated using diethyl ether and filtered to afford the title compound as a pale brown solid (1.19 g, 72%). LC-MS 100%, m/z=343.0, 1H NMR (500 MHz, DMSO) δ 11.48 (s, 1H), 8.54 (t, J=4.8 Hz, 1H), 7.71 (dd, J=13.3, 8.0 Hz, 1H), 7.56-7.45 (m, 1H), 7.20 (d, J=7.6 Hz, 1H), 5.86 (s, 1H), 4.25 (d, J=4.9 Hz, 2H), 2.18 (s, 3H), 2.11 (s, 3H).

reactant | 3-fluoro-2-(trifluoromethyl)benzoic acid | 4.81 mmol, 1.00 g | FC=1C(=C(C(=O)O)C=CC1)C(F)(F)F | C8H4F4O2
reactant | HATU | 5.77 mmol, 2.19 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 9.61 mmol, 1.67 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 5.29 mmol, 904 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-fluoro-2-(trifluoromethyl)benzamide | 1.19 g, 72% | CC1=C(C(NC(=C1)C)=O)CNC(C1=C(C(=CC=C1)F)C(F)(F)F)=O | C16H14F4N2O2
